US07772256B2
b) (5-Bromo-3-fluoro-pyridin-2-yl)-carbamic acid tert-butyl ester
To a solution of 5-bromo-3-fluoro-pyridin-2-ylamine (1.2 g, 6.28 mmol) in THF (100 mL) was added NaHMDS (1M in THF, 6.2 mL) at 0° C. The solution was stirred vigorously for 15 minutes (turned green). Boc2O (1.3 g, 5.95 mmol) dissolved in THF (5 mL) was added to the reaction mixture slowly over 30 minutes at 0° C. The reaction mixture was then warmed to room temperature, stirred for 5 hours and was quenched with NaHCO3 (saturated aqueous solution, 40 mL). The product was extracted with EtOAc (3×40 mL). The organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified by Biotage using 3-10% EtOAc in hexane to give title compound (600 mg) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.29 (br. s, 1 H) 7.58 (dd, J=9.37, 1.95 Hz, 1 H) 6.89 (br. s., 1 H) 1.53 (s, 9 H)

reactant | 5-bromo-3-fluoro-pyridin-2-ylamine | 6.28 mmol, 1.2 g | BrC=1C=C(C(=NC1)N)F | C5H4BrFN2
reactant | NaHMDS | 1M, 6.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Boc2O | 5.95 mmol, 1.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5-Bromo-3-fluoro-pyridin-2-yl)-carbamic acid tert-butyl ester | 600 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1F)Br)=O | C10H12BrFN2O2
